2144-05-15 09:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 y.o. M with h/o Parkinson's, sickle trait, diet controlled DM,
   presented on [**2144-5-12**] from [**Hospital3 1254**] with 2 day history of fever,
   tachycardia and hypotension.  He spiked fevers to 102 and had been
   tachycardic to 130-150s.  Admission Physical exam noted large
   ecchymoses and 2 regions of soft tissue swelling on his left upper
   extremity.  He noted abdominal distension and stated that he had
   worsening L lower back pain over past two days prior to admission. Due
   to pancytopenia noticed on labs and recent fevers, he was transferred
   to [**Hospital1 5**] for further evaluation.
   .
   In the emergency department, initial vitals: T 100.7  BP 100/64   P
   108  RR 18  O2  95% RA.  On transfer to floor, T 103, P78.  Negative
   CXR and LUE U/S.  Empirically started on vancomycin and Zosyn.
   .
   On the medical floor, he continued to spike high fevers even with
   standing acetaminophen.  BCx grew out 1/4 bottles SCN (likley
   contaminant), so his vancomycin was stopped on day of tranfer.  Heme
   onc was consulted for pancytopenia, and the medicine team felt that
   hemophagocytic syndrome, MDS, and lymphoma are possible etiologies. On
   [**5-14**], BM biopsy was completed.  MRI/MRA of abdomen is pending due to
   abdominal distension with U/S that showed echogenic foci in liver.
   .
   [**5-14**]  the patient was triggered for HR in 150s. Per resident, pt was
   found rigoring but with stable BPs. He was bolused with fluids and
   vancomycin was restarted.  He also got one dose of Demerol for rigors.
   Due to sustained tachy cardia, he was transferred to the ICU.
   Vancomycin was stopped on day of transfer
   PMHX: Parkinsons
   DM no medications
   Prostate CA: radiation treatment only
   Fam Hx: not contrib
   Social: Denies EtOH/drugs, lives in [**Hospital3 1254**]. Jehovahs Witness.
   Originally from Trinidade
   24 Hour Events:
 FEVER - 103.9
F - [**2144-5-15**] 01:00 AM
   Allergies:
   Iodine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2144-5-15**] 08:12 AM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2144-5-15**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-15**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.9
   Tcurrent: 39.2
C (102.5
   HR: 135 (123 - 142) bpm
   BP: 118/59(71) {86/46(58) - 138/64(77)} mmHg
   RR: 30 (25 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             1,998 mL
   PO:
             TF:
   IVF:
   1,398 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    790 mL
   Urine:
   790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,208 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL, diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Bowel sounds present, Distended, Tender:
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, No(t) Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   63 K/uL
   75 mg/dL
   1.3 mg/dL
   15 mEq/L
   4.5 mEq/L
   17 mg/dL
   109 mEq/L
   137 mEq/L
   24.8 %
   1.7 K/uL
        [image002.jpg]
                             [**2144-5-15**]  05:41 AM
   WBC
   1.7
   Hct
   24.8
   Plt
   63
   Cr
   1.3
   Glucose
   75
   Other labs: ALT / AST:15/399, Alk Phos / T Bili:70/1.4, Lactic Acid:2.8
   mmol/L, Albumin:2.5 g/dL, LDH:1199 IU/L, Ca++:7.7 mg/dL, Mg++:2.8
   mg/dL, PO4:3.2 mg/dL
   U/S [**5-13**]:
   1. Increased hepatic echogenicity, with scattered hypoechoic regions
   seen,
   which are somewhat ill-defined and not clearly present on prior
   examinations.
   While the findings may represent fatty liver with regions of focal
   sparing,
   the appearance is not classic and further evaluation with dedicated
   hepatic
   MRI is recommended.
   2. Gallbladder sludge.
   3. Splenomegaly.
   4. Trace free fluid.
   Microbiology: [**5-12**]:
 coag neg staph
   CXR [**2144-5-14**]: Increasing bibasilar atelectasis
   Assessment and Plan
   77 y.o. M with h/o Parkinson's, sickle trait and pancytopenia  admitted
   with persistent sinus tachycardia in 150s in setting of high fevers and
   rigors concerning for underlying lymphoma.
   > Sinus tachycardia: Likely being driven by high fevers of 102-103.  Pt
   improved in ICU with RTC tylenol and also meperidine for rigors. Would
   fluid resus with LR (1L)
   - fluid resus LR
   - monitor on telemetry
   - repeat EKG in AM
   - treat fevers as below
   > Fever: continues to spike high grade fevers with only 1/4 bottles of
   CNS, likely contaminant.  Still unclear what source of fevers; viral
   studies still pending. Plan on imaging abdomen today (CT scan with non
   ionic contrast). Seems reasonable to cover empirically as we would for
   neutropenic fever (evern though not technically neutropenic) with Vanco
   and Pip-Tazo pending further info on clxs. Although less likely there
   is a possibility of reactivation TB
   - f/u all viral studies
   - f/u cultures, sputum culture if possible
   - treat empirically with vanco/zosyn. Vanco level..
   - trend fever curve
   - CT abd ? underlying malignancy.  Will include CT torso as well/
   > Pancytopenia: Currently considering primary BM process i.e. MDS vs
   lymphoma vs hemophagocytic syndrome. s/p BM biopsy today.
   - appreciate Heme Onc recs
   - continue to trend CBC and ANC
   - neutropenic precautions
   - f/u BM biopsy and cytogenetics
   - f/u viral studies that could cause marrow suppression.
   > DIC/Tumor lysis: concern for underlying malignancy vs viral process.
   Follow  labs.
   - start allopurinol
   - fractional ferritin.
   - serial DIC/tumor lysis labs q 6hrs
   - will have to find out what he can take as a Jehovah
s witness for
   blood product
   Additional issues per ICU resident notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-5-15**] 12:25 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2144-05-16 04:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -bone marrow biopsy (aspirate and core) prelim- consistent with
   hemophagocytic syndrome, no evidence of lymphoma
   -CMV VL negative, EBV IgM negative (IgG +, EBNA +)
   -sent additional viral studies and mycolytic cultures
   -CT scan prelim without obvious source for fever, no lymphoma
   -Heme-onc d/w family potential for chemo, patient full code but still
   no transfusions, would like to proceed w/ chemo if indicated given his
   poor prognosis otherwise.  Steroids alone started (dexamethasone 20mg
   IV daily) for now as will be the safest option
   -T bili up, added on LFTs, AST elevated still, added on direct
   bilirubin.  added on CK as AST elevated out of proportion to ALT- CK to
   1500 which is likely related to rigors- sent u/a and urine lytes and
   began D5W w/ 150meq bicarb @ 150cc/hr for urine alkylinization.
   Allergies:
   Iodine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2144-5-16**] 12:29 AM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2144-5-15**] 04:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-16**] 04:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 35.9
C (96.7
   HR: 99 (95 - 137) bpm
   BP: 97/55(63) {77/44(53) - 129/69(80)} mmHg
   RR: 21 (20 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,845 mL
                                                                    760 mL
   PO:
             TF:
   IVF:
                                                                  8,245 mL
                                                                    760 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    240 mL
   Urine:
                                                                  1,795 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,050 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.50/25/53/16/-1
   Physical Examination
   GEN: NAD, drowsy but AOx3
   HEENT: MM slightly dry, OP clear, EOMI, PERRL
   CARD: tachycardic, Regular rhythm, no murmurs
   PULM: CTAB
   ABD: Soft, NT, ND, no masses or organomegaly
   EXT: WWP, no c/c/e
   Labs / Radiology
   48 K/uL
   7.1 g/dL
   119 mg/dL
   1.7 mg/dL
   16 mEq/L
   4.2 mEq/L
   21 mg/dL
   112 mEq/L
   140 mEq/L
   20.8 %
   1.8 K/uL
        [image002.jpg]
                             [**2144-5-15**]  05:41 AM
                             [**2144-5-15**]  10:15 AM
                             [**2144-5-15**]  12:10 PM
                             [**2144-5-15**]  05:30 PM
                             [**2144-5-15**]  09:48 PM
                             [**2144-5-16**]  03:31 AM
   WBC
   1.7
   1.4
   1.6
   1.7
   1.8
   Hct
   24.8
   23.9
   22.2
   18.4
   20.8
   Plt
   63
   59
   53
   43
   48
   Cr
   1.3
   1.6
   1.7
   TCO2
   20
   Glucose
   75
   78
   119
   Other labs: PT / PTT / INR:19.0/>150.0/1.8, CK / CKMB /
   Troponin-T:1559//, ALT / AST:61/439, Alk Phos / T Bili:255/6.3,
   Differential-Neuts:71.4 %, Lymph:22.6 %, Mono:4.7 %, Eos:0.1 %,
   Fibrinogen:147 mg/dL, Lactic Acid:3.8 mmol/L, Albumin:2.5 g/dL, LDH:963
   IU/L, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   77 y.o. M with h/o Parkinson's, sickle trait, diet controlled DM- with
   fevers and tachycardia / splenomegaly and pancytopenia now with
   hemophagocytic syndrome.
   # Hemophagocytic syndrome: based on aspirate and core bone marrow
   biopsy.  Currently could be primary vs. secondary related to infection.
   EBV serologies indicative of prior infection, not current.
   -CMV negative
   -follow up additional viral studies including parvovirus B19, VZV IgG
   and IgM, HSV 1 and 2 IgM, HHV8 IgG, fungal blood cultures
   -f/u other culture results
   -dexamethasone 20mg IV qday, rec'd initial dose on p.m. [**5-15**]
   -f/u heme onc recs regarding potential chemotherapy
   -code status d/w family, patient still full code, no transfusions
   -f/u AFB smear of aspirate, no lymphoma on BMB or CT scan
   -send Q6 lysis labs and Q6 DIC labs, patient in DIC currently given
   elevated INR and PTT, low plts and low fibrinogen, elevated D dimer
   -daily ANC
   -for DIC and steroid use will increase PPI to [**Hospital1 **]
   -will continue vanc / zosyn (although cultures continue to be
   negative), d/c standing tylenol this a.m.
   # ARF: creatinine worsening in the setting of hypotension, DIC so
   likely diffuse coagulation throughout small vessels of kidney, CK
   elevation likely secondary to rigors
   -urine lytes reveal a FeNa of 0.1%
   -hematuria likely related to DIC
   -D5W w/ 150meq of bicarb at 100cc/hr given non gap acidosis and CK >
   1000
   # Hematuria: Seems to be improving, will continue to monitor. Check
   urine myoglobin.
   # Cirrhosis on CT scan: Unclear etiology.
   - Check hepatitis A IgM
   - Will d/w heme/onc re: significance of LFT abnormalities and cirrhosis
   on CT scan
   # LFT abnormalities. Unclear etiology
could represent acalculous
   cholecystitis (but RUQ ultrasound normal on [**2144-5-13**]). ? related to
   hemophagocytic syndrome. Will continue to trend. Will touch base with
   heme/onc. [**Month (only) 8**] need HIDA scan.
   # Hypotension: likely related to vasodilation related to massive immune
   response, also contributing factor may be blood loss related to DIC,
   has source of bleeding in urinary tract likely [**1-13**] foley trauma.  Bolus
   w/ LR prn.
   # Parkinson's: hold sinimet given possible marrow supression and per
   PCP was not helpful for patient.
   # DM2: HISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-5-15**] 12:25 AM
   18 Gauge - [**2144-5-15**] 11:35 AM
   22 Gauge - [**2144-5-16**] 12:33 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now, will talk to heme/onc re : dispo

2144-05-16 07:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 103.6
F - [**2144-5-15**] 06:00 PM
   > Started steroids overnight.
   Allergies:
   Iodine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2144-5-16**] 07:37 AM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2144-5-15**] 04:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-16**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 35.8
C (96.5
   HR: 97 (93 - 137) bpm
   BP: 99/56(66) {77/44(53) - 121/69(80)} mmHg
   RR: 22 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,845 mL
                                                                  1,378 mL
   PO:
             TF:
   IVF:
                                                                  8,245 mL
                                                                  1,378 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    515 mL
   Urine:
                                                                  1,795 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,050 mL
                                                                    863 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.50/25/53/22/-1
   Physical Examination
   General Appearance: No acute distress, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   7.1 g/dL
   48 K/uL
   68 mg/dL
   1.8 mg/dL
   22 mEq/L
   4.4 mEq/L
   7 mg/dL
   106 mEq/L
   139 mEq/L
   20.8 %
   1.8 K/uL
        [image002.jpg]
                             [**2144-5-15**]  05:41 AM
                             [**2144-5-15**]  10:15 AM
                             [**2144-5-15**]  12:10 PM
                             [**2144-5-15**]  05:30 PM
                             [**2144-5-15**]  09:48 PM
                             [**2144-5-16**]  03:31 AM
   WBC
   1.7
   1.4
   1.6
   1.7
   1.8
   Hct
   24.8
   23.9
   22.2
   18.4
   20.8
   Plt
   63
   59
   53
   43
   48
   Cr
   1.3
   1.6
   1.7
   1.8
   TCO2
   20
   Glucose
   75
   78
   119
   68
   Other labs: PT / PTT / INR:17.7/147.1/1.6, CK / CKMB /
   Troponin-T:1559//, ALT / AST:61/170, Alk Phos / T Bili:150/7.0,
   Differential-Neuts:71.4 %, Lymph:22.6 %, Mono:4.7 %, Eos:0.1 %,
   Fibrinogen:194 mg/dL, Lactic Acid:3.8 mmol/L, Albumin:2.5 g/dL,
   LDH:1158 IU/L, Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   CT abd [**5-15**]:
   1. Ascites and pleural effusions, likely related to third-spacing of
   fluid.
   This may also explain the appearance of the gallbladder wall.
   Nevertheless,
   cholecystitis is not excluded here and concern should be weighed agains
   laboratory and clinical findings. A HIDA scan may clarify this
   possibility.
   2. Bibasilar atelectasis with hazy right lower lobe opacity which is
   equivocal and may represent infection.
   3. Cirrhotic liver with periportal prominent lymph nodes, which,
   together
   with a rising [**Last Name (LF) **], [**First Name3 (LF) **] suggest hepatitis. Hepatic
   hypodensities
   likely represent fatty infiltration.
   Assessment and Plan
   77 y.o. M with h/o Parkinson's, sickle trait and pancytopenia  admitted
   with persistent sinus tachycardia in 150s in setting of high fevers and
   rigors concerning hematophagocytic syndrome of unclear etiology
   (primary vs seconday)
   > Sinus tachycardia: Likely being driven by high fevers of 102-103,
   dramatic improvement with steroids overnight
   - fluid resus LR
   - monitor on telemetry
   > Fever: continues to spike high grade fevers with only 1/4 bottles of
   CNS, likely contaminant.  Still unclear what source of fevers; viral
   studies still pending. Plan on imaging abdomen today (CT scan with non
   ionic contrast). Seems reasonable to cover empirically as we would for
   neutropenic fever (evern though not technically neutropenic) with Vanco
   and Pip-Tazo pending further info on clxs. Although less likely there
   is a possibility of reactivation TB
   - f/u all viral studies
   - f/u cultures, sputum culture if possible
   - treat empirically with vanco/zosyn. Vanco level..
   - trend fever curve
   > Hematuria: concern also with elevated CK in the setting of his rigors
   for rhabdomyolysis(protein in urine trending down). Will cont hydration
   to prevent ATN
   - check urine myoglobin
   - cont hydration decrease to 100 cc/hr
   -supportive therapy (not a transfusion candidate)
   > [**First Name3 (LF) **]: unclear etiology to [**First Name3 (LF) **] and unexpected CT
   scan (? Cirrhosis): with neg Hep B and C. Unclear etiology (does not
   appear to any liver infiltration by a malignant process ? related to
   hematophg syndrome). Has a rising pattern c/w liver injury. Also with ?
   of cholecystitis on CT scan, seems less likely
   - d/w Onc: ? HIDA scan., could this be [**1-13**] DIC?
   > Pancytopenia: Currently considering primary BM process  with
   hemophagocytic syndrome with evidence of hemophag syndrome on hx (no
   obv secondary etiologies)
   - appreciate Heme Onc recs (would cont empiric steroids for now)
   - continue to trend CBC and ANC
   - neutropenic precautions
   - f/u viral studies that could cause marrow suppression (EBV and CMV
   negative at this point)
   - No evidence of lymphoma on marrow
   - awaiting AFB smear
   - unable to transfuse at this point
   > DIC/Tumor lysis: concern for underlying malignancy vs viral process.
   Follow  labs.
   - start allopurinol
   - serial DIC/tumor lysis labs
   - will have to find out what he can take as a Jehovah
s witness for
   blood product
   Additional issues per ICU resident notes
   ICU Care
   Nutrition:
   PO diet
   Glycemic Control:  Regular insulin sliding scale (titrate up as needed,
   may need long acting)
   Lines:
   20 Gauge - [**2144-5-15**] 12:25 AM
   18 Gauge - [**2144-5-15**] 11:35 AM
   22 Gauge - [**2144-5-16**] 12:33 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2144-05-17 05:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Heme/onc wants to continue steroids (and epo), possibly chemo on
   Monday (dexamethasone 20mg daily)
   - CXR showed increased perihilar opacification and left pleural
   effusion, compatible with pulmonary venous congestion.
   - Allopurinol 300mg daily for TLS, but no signs of TLS on labs; still
   in mild DIC; minimizing blood draws
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsIodine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2144-5-17**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-17**] 05:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 103 (93 - 109) bpm
   BP: 113/65(74) {93/44(55) - 118/72(83)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,612 mL
                                                                    608 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  3,412 mL
                                                                    608 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    455 mL
   Urine:
                                                                  1,825 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,787 mL
                                                                    153 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   43 K/uL
   7.0 g/dL
   191 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.9 mEq/L
   30 mg/dL
   102 mEq/L
   137 mEq/L
   19.6 %
   2.3 K/uL
        [image002.jpg]
                             [**2144-5-15**]  05:41 AM
                             [**2144-5-15**]  10:15 AM
                             [**2144-5-15**]  12:10 PM
                             [**2144-5-15**]  05:30 PM
                             [**2144-5-15**]  09:48 PM
                             [**2144-5-16**]  03:31 AM
                             [**2144-5-17**]  01:33 AM
   WBC
   1.7
   1.4
   1.6
   1.7
   1.8
   2.3
   Hct
   24.8
   23.9
   22.2
   18.4
   20.8
   19.6
   Plt
   63
   59
   53
   43
   48
   43
   Cr
   1.3
   1.6
   1.7
   1.8
   1.5
   TCO2
   20
   Glucose
   75
   78
   119
   68
   191
   Other labs: PT / PTT / INR:14.5/69.7/1.3, CK / CKMB /
   Troponin-T:1559//, ALT / AST:173/459, Alk Phos / T Bili:219/7.9,
   Differential-Neuts:71.0 %, Band:14.0 %, Lymph:8.0 %, Mono:4.0 %,
   Eos:0.0 %, Fibrinogen:145 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:2.3
   g/dL, LDH:1487 IU/L, Ca++:7.6 mg/dL, Mg++:2.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   77 y.o. M with h/o Parkinson's, sickle trait, diet controlled DM- with
   fevers and tachycardia / splenomegaly and pancytopenia now with
   hemophagocytic syndrome.
   # Hemophagocytic syndrome: based on aspirate and core bone marrow
   biopsy.  Currently could be primary vs. secondary related to infection.
   EBV serologies indicative of prior infection, not current.
   -CMV negative
   -follow up additional viral studies including parvovirus B19, VZV IgG
   and IgM, HSV 1 and 2 IgM, HHV8 IgG, fungal blood cultures
   -f/u other culture results
   -dexamethasone 20mg IV qday, rec'd initial dose on p.m. [**5-15**]
   -f/u heme onc recs regarding potential chemotherapy
   -code status d/w family, patient still full code, no transfusions
   -f/u AFB smear of aspirate, no lymphoma on BMB or CT scan
   -send Q6 lysis labs and Q6 DIC labs, patient in DIC currently given
   elevated INR and PTT, low plts and low fibrinogen, elevated D dimer
   -daily ANC
   -for DIC and steroid use will increase PPI to [**Hospital1 **]
   -will continue vanc / zosyn (although cultures continue to be
   negative), d/c standing tylenol this a.m.
   # ARF: creatinine worsening in the setting of hypotension, DIC so
   likely diffuse coagulation throughout small vessels of kidney, CK
   elevation likely secondary to rigors
   -urine lytes reveal a FeNa of 0.1%
   -hematuria likely related to DIC
   -D5W w/ 150meq of bicarb at 100cc/hr given non gap acidosis and CK >
   1000
   # Hematuria: Seems to be improving, will continue to monitor. Check
   urine myoglobin.
   # Cirrhosis on CT scan: Unclear etiology.
   - Check hepatitis A IgM
   - Will d/w heme/onc re: significance of LFT abnormalities and cirrhosis
   on CT scan
   # LFT abnormalities. Unclear etiology
could represent acalculous
   cholecystitis (but RUQ ultrasound normal on [**2144-5-13**]). ? related to
   hemophagocytic syndrome. Will continue to trend. Will touch base with
   heme/onc. [**Month (only) 8**] need HIDA scan.
   # Hypotension: likely related to vasodilation related to massive immune
   response, also contributing factor may be blood loss related to DIC,
   has source of bleeding in urinary tract likely [**1-13**] foley trauma.  Bolus
   w/ LR prn.
   # Parkinson's: hold sinimet given possible marrow supression and per
   PCP was not helpful for patient.
   # DM2: HISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-5-15**] 12:25 AM
   18 Gauge - [**2144-5-15**] 11:35 AM
   22 Gauge - [**2144-5-16**] 12:33 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now, will talk to heme/onc re : dispo

2144-05-17 07:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Iodine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2144-5-17**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-17**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 103 (95 - 109) bpm
   BP: 140/56(75) {93/44(55) - 140/72(83)} mmHg
   RR: 25 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,612 mL
                                                                    763 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  3,412 mL
                                                                    763 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    635 mL
   Urine:
                                                                  1,825 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,787 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   43 K/uL
   191 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.9 mEq/L
   30 mg/dL
   102 mEq/L
   137 mEq/L
   19.6 %
   2.3 K/uL
        [image002.jpg]
                             [**2144-5-15**]  05:41 AM
                             [**2144-5-15**]  10:15 AM
                             [**2144-5-15**]  12:10 PM
                             [**2144-5-15**]  05:30 PM
                             [**2144-5-15**]  09:48 PM
                             [**2144-5-16**]  03:31 AM
                             [**2144-5-17**]  01:33 AM
   WBC
   1.7
   1.4
   1.6
   1.7
   1.8
   2.3
   Hct
   24.8
   23.9
   22.2
   18.4
   20.8
   19.6
   Plt
   63
   59
   53
   43
   48
   43
   Cr
   1.3
   1.6
   1.7
   1.8
   1.5
   TCO2
   20
   Glucose
   75
   78
   119
   68
   191
   Other labs: PT / PTT / INR:14.5/69.7/1.3, CK / CKMB /
   Troponin-T:1559//, ALT / AST:173/459, Alk Phos / T Bili:219/7.9,
   Differential-Neuts:71.0 %, Band:14.0 %, Lymph:8.0 %, Mono:4.0 %,
   Eos:0.0 %, Fibrinogen:145 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:2.3
   g/dL, LDH:1487 IU/L, Ca++:7.6 mg/dL, Mg++:2.7 mg/dL, PO4:2.3 mg/dL
   CXR [**5-17**]
   Assessment and Plan
   77 y.o. M with h/o Parkinson's, sickle trait and pancytopenia  admitted
   with persistent sinus tachycardia in 150s in setting of high fevers and
   rigors concerning hematophagocytic syndrome of unclear etiology
   (primary vs seconday)
   > Sinus tachycardia: Likely being driven by high fevers of 102-103,
   dramatic improvement with steroids, now stable
   - decrease IVF (no evidence of tumor lysis and tolerating PO well with
   down trending CK)
   - monitor on telemetry
    > Fever: continues to spike high grade fevers with only 1/4 bottles of
   CNS, likely contaminant.  Still unclear what source of fevers; viral
   studies still pending. Plan on imaging abdomen today (CT scan with non
   ionic contrast). Seems reasonable to cover empirically as we would for
   neutropenic fever (evern though not technically neutropenic) with Vanco
   and Pip-Tazo pending further info on clxs. Although less likely there
   is a possibility of reactivation TB
   - f/u all viral studies
   - All clx neg to date.
   - treat empirically with vanco/zosyn. Vanco level..
   - trend fever curve
   > Hematuria: concern also with elevated CK in the setting of his rigors
   for rhabdomyolysis(protein in urine trending down). Will cont hydration
   to prevent ATN, his CK has improved. Will hold on further IVF
   -supportive therapy (not a transfusion candidate)
   > Transaminitis: unclear etiology to transaminitis and unexpected CT
   scan (? Cirrhosis): with neg Hep B and C. Unclear etiology (does not
   appear to any liver infiltration by a malignant process ? related to
   hematophg syndrome). Has a rising pattern c/w liver injury. Also with ?
   of cholecystitis on CT scan, seems less likely. Concerning that LDH and
   bili continue to rise of unclear etiology.
   - d/w Onc: ? HIDA scan., could this be [**1-13**] DIC?
   - liver consult for ? of obstructive pattern.
    > Pancytopenia: Currently considering primary BM process  with
   hemophagocytic syndrome with evidence of hemophag syndrome on hx (no
   obv secondary etiologies)
   - appreciate Heme Onc recs (would cont empiric steroids for now)
   - continue to trend CBC and ANC
   - neutropenic precautions
   - f/u viral studies that could cause marrow suppression (EBV and CMV
   negative at this point)
   - No evidence of lymphoma on marrow
   - awaiting AFB smear (should have answer
   - unable to transfuse at this point: cont epo
   > DIC/Tumor lysis: concern for underlying malignancy vs viral process.
   Follow  labs.  No evidence of active tumor lysis at this point
   - cont  allopurinol
   - followl DIC/tumor lysis labs
   - will accept
   Additional issues per ICU resident notes
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2144-5-15**] 12:25 AM
   18 Gauge - [**2144-5-15**] 11:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes